US05324648
7-(m-Carboxyphenylthiocarbamoylamino)-4-chloro-3-(2-bromoethoxy)isocoumarin was prepared from the reaction of m-carboxyphenyl isothiocyanate with 7-amino-4-chloro-3-(2-bromoethoxy)isocoumarin, yield 64%, m.p. 157°-158° C.; mass spectrum m/e 361 (M+ -(COOH)PhNH+1). Anal. Calc.: C, 45.85; H, 2.84. Found: C, 45.73; H, 2.86. The bromoethoxy compound was then reacted with thiourea to give the product, yield 21%; mass spectrum (FAB+) m/e 493 (M+ -Br).

reactant | m-carboxyphenyl isothiocyanate | C(=O)(O)C=1C=C(C=CC1)N=C=S | C8H5NO2S
reactant | 7-amino-4-chloro-3-(2-bromoethoxy)isocoumarin | NC1=CC=C2C(=C(OC(=O)C2=C1)OCCBr)Cl | C11H9BrClNO3
reactant | thiourea | NC(=S)N | CH4N2S
product | 7-(m-Carboxyphenylthiocarbamoylamino)-4-chloro-3-(2-bromoethoxy)isocoumarin | yield 64% | C(=O)(O)C=1C=C(C=CC1)NC(=S)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCBr)Cl | C19H14BrClN2O5S
